Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
SBO
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y/o M with PMHx of Lymphoma (awaiting OSH records), Cold
Agglutinins, Hx of Opiate Abuse and recent adm to ___ 
___
for SBO managed conservatively who presents today to ___
with severe abd pain with distension and nausea, found to have
recurrent SBO with extensive retroperitoneal & mesenteric
adenopathy.   CT was also notable for ileocecal intussusception,
not felt to be the etiology of the obstruction.  He was seen by
Surgery in the ED and underwent NG tube placement with 1L of
bilious output.   Pt received IVF, morphine and was admitted to
medicine with plan for conservative management of SBO.  Surgery
team felt the intussusception was transient and recommended
conservative management of SBO.

On arrival to the floor, pt was moaning and reporting severe 
___
pain.   Pt received 1mg IV dilaudid and NG tube was placed to
continuous suction with improvement in pain to ___.   Pt 
reports
having been admitted approximately 3 wks ago for similar 
symptoms
that resolved after placement of NGT.  He reports occasional abd
pain over the last few weeks but has been taking po normally and
had a regular BM yesterday without any BRBPR.  He receives care
for his "lymphoma" at ___ and reports getting Rituxan every
winter but otherwise, denies previous chemotherapy.   He was
ordered to get a f/u PET after admission for SBO but it has not
been scheduled yet.   He does not usually drink alcohol but 
drank
a lot with a friend on ___ night which caused vomiting and he
feels this likely triggered the recurrent SBO.  On ROS, he 
denies
any CP, SOB, ___ edema, joint pains, rash, nightsweats, fevers,
dysuria or chronic abd pain.  He lost some weight during the
recent episode of SBO but otherwise denies any weight loss.

Past Medical History:
"Lymphoma" diagnosed back in ___ (from ___, still awaiting
records from ___
Cold Agglutinins treated with Rituxan every winter
Opiate Abuse, clean for over ___ yrs
Marijuana use for pain control

Home medications: none

Allergies: penicillin causes hives

Social History:
___
Family History: no family hx of malignancy

PE: 

 
Physical Exam:
98.1   64   163/84   15   96%  
GEN: Caucasian male, mildly uncomfortable with NGT in place
HEENT: NGT in place, draining dark brown fluid
CV: RRR
RESP: CTAB no w/r
ABD: soft, non-distended, BS present, no TTP at the time of my
exam (after dilaudid), no rebound, no surgical scars on abd
GU: no foley
EXTR: no edema
DERM: no rash, no scleral icterus
PSYCH: alert, appropriate, intermittently tearful

discharge
avss
non toxic
NGT clamped
some brown fluid in suction canister
soft non distended abdomen without tenderness, bowel sounds 
present
no jaundice
not confused
 
Pertinent Results:
___ 07:00AM BLOOD WBC-4.5 RBC-4.01* Hgb-11.7* Hct-35.7* 
MCV-89 MCH-29.2 MCHC-32.8 RDW-15.1 RDWSD-48.2* Plt ___
___ 07:00AM BLOOD LD(LDH)-280* TotBili-2.6* DirBili-0.4* 
IndBili-2.2
___ 07:00AM BLOOD Glucose-70 UreaN-18 Creat-0.8 Na-143 
K-4.4 Cl-106 HCO3-23 AnGap-14

CXR IMPRESSION:  
No prior chest radiographs available.  Nasogastric tube is 
coiled
in the upper portion of nondistended stomach. 
Roughly 6 x 2.5 cm, elliptical opacity projecting over the left
lower lung at the level of the anterior sixth rib could be a 
mass
or pneumonia.  There is no abnormality elsewhere in the lungs. 
No pleural effusion or pneumothorax.  
Normal cardiomediastinal and hilar contours. 

CT abd/pelvis done at ___ (full report in ___ records):
IMPRESSION:
1. Small bowel obstruction with several areas of eccentric bowel
wall thickening and nodularity within the dilated small bowel
loops. Soft tissue surrounding the cecum with an ileocecal
intussusception at this time but this is not the etiology of the
bowel obstruction.
2. Extensive retroperitoneal and mesenteric adenopathy.
3. Small amount of ascites dependently in the pelvis and around
the liver and spleen.
4. Gallstones. Normal duct . No dilated intrahepatic ducts.
5. Splenomegaly.
6. Left lower lobe infiltrate. Possible infection, possible
lymphoma disc changes in the lung.

 
Brief Hospital Course:
___ y/o M with PMHx of Lymphoma , Cold Agglutinins, Hx of Opiate 
Abuse and recent adm to ___ for SBO managed 
conservatively who presents today to ___
with severe abd pain with distension and nausea, found to have 
recurrent SBO with extensive retroperitoneal & mesenteric 
adenopathy. 

He was hospitalized on the medical service at ___ with 
surgical consult.  NGT placed, drained brownish fluid, clamped 
the next morning, he then passed gas and stool and did not have 
nausea/vomiting or abdominal discomfort.  He requested to have 
NGT removed as he tolerated clamp trial.  He requested to be 
discharged ASAP ideally on ___.  I offered to keep him 
hospitalized another day so we could gradually advance diet and 
monitor symptoms.  Given passage of stool and active flatus and 
tolerance of clears he preferred earlier discharge without 
monitoring in hospital.  He understands to avoid high fiber 
foods, gradually advance from full liquid diet.  His NGT was 
removed per his request.

I spoke with his hematologist at ___, Dr. ___, ___ 
___ number ___ to inform him of the admission, SBO 
and early discharge.  Dr. ___ that his previously 
low grade lymphoma may be more active now and requires close 
outpatient attention and assessment if chemotherapy will be 
needed in the future.  Patient reported that he is due for 
PET/CT this ___.

I explained to patient high risk for recurrent SBO and that he 
should seek medical care, ideally at ___ if he gets sick again 
to help coordinate care.  

>30min on discharge coordination and assessment on day of 
discharge

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
none
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
SBO
lymphoma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
you were hospitalized for bowel obstruction.  you were treated 
with bowel rest and NG tube.  you were seen by surgery.

avoid high fiber foods

seek medical care if symptoms of bowel obstruction recur

complete your heme/onc follow up with pet/ct as planned
 
Followup Instructions:
___